US07405221B2
2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine from Reference Example 3 was reacted with n-butanol according to the procedure described in Example 59 to afford 2-(n-butyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine (HRf): HPLC/MS: m/e=407 (M++1); Rt=4.80 min; 1H-NMR 400 MHz (CDCl3): δ 1.00 (t, 3H), 1.50-1.6 (m,2H), 1.80-1.85 (m, 2H), 4.41-4.44 (t, 2H), 7.01 (d, J=9 Hz, 2H), 7.21-7.25 (m, 5H), 8.58 (s, 1H).

reactant | 2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine | CSC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2S
reactant | n-butanol | C(CCC)O | C4H10O
product | 2-(n-butyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | C(CCC)OC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C20H17Cl3N2O
